US06090804
1) 2-[5-Phthalimidomethyl-2-thienyl]imidazo[1,2-a]pyridine
5-Bromoacetyl-2-(phthalimidomethyl)thiophene (0.80 g) and 2-aminopyridine (0.23 g) were dissolved in anhydrous ethanol (50 ml) and heated under reflux for 6 hours. The resulting crystals were collected by filtration and purified by a silica gel column chromatography (chloroform:methanol=100:1) to give 0.38 g of the title compound.

reactant | 5-Bromoacetyl-2-(phthalimidomethyl)thiophene | 0.80 g | BrCC(=O)C1=CC=C(S1)CN1C(C=2C(C1=O)=CC=CC2)=O | C15H10BrNO3S
reactant | 2-aminopyridine | 0.23 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[5-Phthalimidomethyl-2-thienyl]imidazo[1,2-a]pyridine | 0.38 g | C1(C=2C(C(N1CC1=CC=C(S1)C=1N=C3N(C=CC=C3)C1)=O)=CC=CC2)=O | C20H13N3O2S
